US07846960B2
4-Methoxy-2-methyl-benzoic Acid Methyl Ester
To an ambient temperature suspension of 4-Methoxy-2-methyl-benzoic acid (1.0 g, 6.02 mmol) in MeOH (10 mL) is added thionyl chloride (1.10 mL, 15.04 mmol) dropwise. The reaction mixture is heated to reflux. After 3 h, the reaction is concentrated and the residue is partitioned between EtOAc and NaHCO3. The aqueous layer is extracted with EtOAc and the combined organic layers are washed with brine, dried (MgSO4), filtered, and concentrated to yield the title compound (877 mg, 81%) 1H NMR (400 MHz, CDCl3) δ 7.95-7.91 (m, 1H), 6.77-6.72 (m, 2H), 3.86 (s, 3H), 3.84 (s, 3H).

reactant | 4-Methoxy-2-methyl-benzoic acid | 6.02 mmol, 1.0 g | COC1=CC(=C(C(=O)O)C=C1)C | C9H10O3
reactant | thionyl chloride | 15.04 mmol, 1.10 mL | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 10 mL | CO | CH4O
product | 4-Methoxy-2-methyl-benzoic Acid Methyl Ester | 877 mg, 81% | COC(C1=C(C=C(C=C1)OC)C)=O | C10H12O3
